US05112817
Reaction and treatment were carried out using 21 g of N,N'-diethylethylenediamine and 7.3 g of diphenylmethyl chloride in accordance with the same procedure as in Example 3-(a), in order to obtain 4.2 g of N-diphenylmethyl-N,N'-diethylethylenediamine.

reactant | N,N'-diethylethylenediamine | 21 g | C(C)NCCNCC | C6H16N2
reactant | diphenylmethyl chloride | 7.3 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)Cl | C13H11Cl
product | N-diphenylmethyl-N,N'-diethylethylenediamine | 4.2 g | C1(=CC=CC=C1)C(N(CCNCC)CC)C1=CC=CC=C1 | C19H26N2
